US04847256
A stirred mixture of 4.88 g of 5-amino-3-methylpyrazole-4-carbonitrile and 6.25 g of 4,6-nonanedione in 50 ml of glacial acetic acid was heated at reflux for 10 hours. The reaction mixture after reflux was worked up as described in Example 50 to give 7.80 of 2-methyl-5,7-dipropylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, mp 73°-74° C.

reactant | 5-amino-3-methylpyrazole-4-carbonitrile | 4.88 g | NC1=C(C(=NN1)C)C#N | C5H6N4
reactant | 4,6-nonanedione | 6.25 g | CCCC(CC(CCC)=O)=O | C9H16O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-5,7-dipropylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | CC1=NN2C(N=C(C=C2CCC)CCC)=C1C#N | C14H18N4
